US06825188B2
i) Methyl (S)-8-methoxy-3-oxo-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate
To a stirred solution of (R)-4-benzyl-2-oxazolidinonyl 3-[2-(N-(tert-butoxycarbonyl)-N-(2,2,2-trifluoroethyl)aminomethyl]-4-methyoxyphenyl]-2(S)-methoxycarbonylmethyl-propionamide (52.40 g, 75 mmol) in THF (300 mL) and water (100 mL) was added dropwise at 0° C. over 30 min a solution of 30% H2O2 (26 mL) and LiOH.H2O (3.2 g, 75 mmol) in water (85 mL). The cloudy solution was stirred for an additional 1 h at 0° C. The resulting homogeneous solution was treated slowly with a solution of sodium sulfite (46 g, 365 mmol) in water (240 mL) at 0° C., then was acidified with an ice-cold solution of concentrated HCl (45 mL) in water (200 mL). The reaction was extracted with ethyl acetate (2×300 mL), and the combined organic layers were washed with brine (600 mL), dried (MgSO4) and concentrated to dryness. The resulting residue was treated with 4.0 M HCl in dioxane (500 mL) with stirring at RT (slow gas evolution was observed). After 1 h, the reaction was concentrated and reconcentrated from 1:1 CHCl3/toluene (2×), then the residue (48.89 g) was taken up in dry DMF (500 mL). To this solution with stirring under argon at 0° C. in a Dewar flask were added triethylamine (21 mL, 150 mmol) and NaHCO3 (31.5 g, 375 mmol), followed by diphenylphosphoryl azide (18 mL, 83.5 mmol). After stirring for 24 h at 0° C., the reaction was concentrated to dryness. The residue was taken up in ethyl acetate (500 mL) and washed sequentially with water (400 mL) and brine (400 mL). Drying (MgSO4), concentration, and flash chromatography on silica gel (30% ethyl acetate/hexanes) gave the title compound (21.81 g, 84%) as a white solid: [α]D −132.6° (c, 1.0, MeOH); TLC (40% EtOAc/hexane) Rf 0.56; chiral HPLC (Chiracel OD, 20% EtOH/hexane) k′=2.05; the opposite enantiomer from a racemic standard had k′=1.86 (none detected); MS (ES) m/e 346.2 (M+H)+; 1H NMR (400 MHz, CDCl3) δ 7.03 (d, J=8.5 Hz, 1H), 6.79 (dd, 1H), 6.61 (d, J=2.6 Hz, 1H), 5.35 (d, J=16.7 Hz, 1H), 4.17 (m, 1H), 4.0 (m, 1H), 3.99 (d, J=16.7 Hz, 1H), 3.84 (m, 1H), 3.79 (s, 3H), 3.71 (s, 3H), 3.01 (m, 2H), 2.91 (dd, 1H), 2.47 (dd, 1H). Anal. Calcd for C16H18F3NO4: C, 55.65; H, 5.25; N, 4.06. Found: C, 55.62; H, 5.27; N, 4.04.

reactant | (R)-4-benzyl-2-oxazolidinonyl 3-[2-(N-(tert-butoxycarbonyl)-N-(2,2,2-trifluoroethyl)aminomethyl]-4-methyoxyphenyl]-2(S)-methoxycarbonylmethyl-propionamide | 75 mmol, 52.40 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)[C@@](C(=O)N)(CC1=C(C=C(C=C1)OC)CN(CC(F)(F)F)C(=O)OC(C)(C)C)CC(=O)OC | C31H38F3N3O8
reactant | H2O2 | 26 mL | OO | H2O2
reactant | LiOH.H2O | 75 mmol, 3.2 g | O[Li].O
reactant | sodium sulfite | 365 mmol, 46 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 45 mL | Cl | ClH
reactant | triethylamine | 150 mmol, 21 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 375 mmol, 31.5 g | C(=O)(O)[O-].[Na+]
reactant | diphenylphosphoryl azide | 83.5 mmol, 18 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | water | 85 mL | O | H2O
solvent | water | 240 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | Methyl (S)-8-methoxy-3-oxo-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepine-4-acetate | 21.81 g, 84% | COC1=CC2=C(C[C@H](C(N(C2)CC(F)(F)F)=O)CC(=O)OC)C=C1 | C16H18F3NO4
